US06281355B1
To a solution of 22.54 g of (4-oxo-thiochroman-2-yl)carboxylic acid and 10.7 ml of phenylhydrazine in 100 ml of ethanol was added 15 ml of sulfuric acid, followed by reflux under heating for 5 hours. The reaction solution was cooled to room temperature, poured into 500 ml of ice water and extracted with ether. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure, and the residue was recrystallized from ethanol-hexane to give 21.85 g of ethyl 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-6-carboxylate.

reactant | (4-oxo-thiochroman-2-yl)carboxylic acid | 22.54 g | O=C1CC(SC2=CC=CC=C12)C(=O)O | C10H8O3S
reactant | phenylhydrazine | 10.7 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-6-carboxylate | 21.85 g | C1=CC=CC2=C1C=1NC3=CC=CC=C3C1C(S2)C(=O)OCC | C18H15NO2S
